US07326447B2
17.1 g (46.0 mmol) of trans-6-bromo-2-fluoro-3-(4-pentylcyclohexyl)-benzoic acid were dissolved in 70 ml of acetone, 7.66 g (55.4 mmol) of potassium carbonate and 3.14 ml (50.6 mmol) of methyl iodide were added, and the mixture was refluxed overnight. The batch was filtered, and the solvent was distilled off, giving 18 g (100%) of methyl 6-bromo-2-fluoro-3-(4-pentylcyclohexyl)benzoate as a colourless oil, which was reacted further without further purification.

reactant | trans-6-bromo-2-fluoro-3-(4-pentylcyclohexyl)-benzoic acid | 46.0 mmol, 17.1 g | BrC1=CC=C(C(=C1C(=O)O)F)[C@@H]1CC[C@H](CC1)CCCCC | C18H24BrFO2
reactant | potassium carbonate | 55.4 mmol, 7.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 50.6 mmol, 3.14 ml | CI | CH3I
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | methyl 6-bromo-2-fluoro-3-(4-pentylcyclohexyl)benzoate | 18 g, 100% | BrC1=CC=C(C(=C1C(=O)OC)F)C1CCC(CC1)CCCCC | C19H26BrFO2
